Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / nuts- peanuts, waluts / Gadavist
 
Attending: ___.
 
Chief Complaint:
Upper Extremity progressive weakness and sensory changes
 
Major Surgical or Invasive Procedure:
- Bronchoscopy w/ tissue biopsy
- Endobronchial Ultrasound 
- Mediastinal Hilar Lymph Node Biopsy
- Lumbar Puncture

 
History of Present Illness:
Ms. ___ is a ___ year old right-handed woman with a history of 
HTN, HLD, asthma who presents as a direct admission from home 
with progressive weakness over the past 8 months.  

She initially developed decreased sensation and pain in her 
hands in ___.  It felt as though she was wearing a 
rubber glove.  She also felt that her hands were not as 
coordinated and with some weakness and spasm. Symptoms started 
mostly in the left hand and progressed up her arm.  She had 
occasional pain that lasted from hours to days.  She was having 
difficulty with zippers, putting in earrings and opening jars.  
Per neurology note, her exam on initial evaluation in ___ was 
relevant for trace reflexes  at bicep/brachioradialis, slow 
finger tapping on the left, and decreased vibration in the right 
middle finger, and distal decreased sensation to pin prick to 
mid shin.  At that initial neurology visit, she also expressed 
intermittent tripping while walking and even occasional falls.  
She also noted that on occasion her speech was "garbled." 

An MRI cervical spine was ordered and showed cervical stenosis 
but also increased signal in the cord from C3 to C6.  An MRI 
brain showed some FLAIR hyperintensities in frontal and parietal 
lobes, which, per report, were most consistent with small vessel 
disease. Chest CT was done for concern for sarcoidosis and was 
unremarkable.  Patient had a spinal tap which showed WBC 1 
protein 37 gluc 59.  NMO ab was neg as were oligoclonal bands 
and IgG index.  Serum studies including ACE, RPR, copper, 
ESR/CRP, B12, thiamine were wnl.  She then was referred for a 
spinal angiogram which ruled out AV fistula.  A complete 
cervical angiogram and high thoracic showed no clear AV fistula. 


Given above results of MRI C spine, she was started empirically 
on prednisone 60mg, but her symptoms did not improve. (Of note, 
she was previously on prednisone 10mg daily for asthma). Her 
symptoms continued to progress and in ___, she could no longer 
hold a pencil and was dropping things.  She denied bowel/bladder 
symptoms. On exam in ___, she had absent reflexes at R bicep 
and brachioradialis, and trace in R tricep/knee ankle and L 
bicep.  She also had impaired proprioception in the left index 
and small fingers. Pin was decreased in C8-T1 bilaterally. 
Otherwise, exam was unchanged with full strength and normal 
tone.

She was evaluated by neurosurgery in ___. At that time, her 
symptoms progressed to involve her right hand as well. On exam, 
she had weakness of deltoids/biceps/triceps that was 4+/5 
bilaterally.  Her finger extensors were ___ on the left.  She 
could not walk on her heels and toes or tandem.  She did have 
mild pain with extension of neck and rotation to the left.  It 
was not felt that she would benefit from surgery yet, but likely 
would be in the future.

In mid ___, she was started on Cellcept in addition to 
prednisone as it was thought that the process was most likely 
autoimmune.  This did not seem to stop progression of symptoms.  
Gabapentin did help the pain in her arm.  Unfortunately, patient 
has gained 50 lbs on prednisone.  At that visit, she reported 
involuntary curling of the left fingers. She had weakness with 
wrist flex/ext and finger abduction/flexion, ___.  Quads were 
4+/5 b/l, hamstrings and TA/gastrocs ___.  She had a new 
upgoing toe on the left.  At that time, as she was not 
benefiting from prednisone, a taper was initiated.  Then, an MRI 
C spine was repeated on ___ which showed no interval change.

Ms. ___ was evaluated by neurology at ___ on ___.  At 
that time, she had LUE and LLE weakness and dysmetria in hand 
and leg.  Reflexes were more brisk on the left with 3 beats of 
clonus at the left ankle.  At that time, anti-MOG ab, 
paraneoplastic ab were sent.  Also, CE, lyme, dsDNA, C3/4, CH50, 
lupus anticoagulant, anticardiolipin ab IgG and IgM, SSA, SSB 
and VitD levels were sent.  She was trialed on methylprednisone 
1g IV x5 with minimal relief of her symptoms.  She had a MRI 
spine one month later which did not show improvement in that 
area of hyperintensity.  The option of IVIG and plasma exchange 
were discussed, but not tried.  Results of above tests are 
unavailable in records, but, per Dr. ___ 
neurologist, they were wnl.

Today, Ms. ___ confirms the history as above and notes that her 
primary complaints are weakness in her bilateral hands, numbness 
in bilateral forearms and hands, and pain and spasms in her 
neck.  She was recently started on Vicodin with some improvement 
in her neck pain.

On neuro ROS, the pt denies headache, loss of vision, blurred 
vision, diplopia, dysphagia, lightheadedness, vertigo, tinnitus 
or hearing difficulty. Denies difficulties comprehending speech. 
 No bowel or bladder incontinence or retention. On general 
review of systems, the pt denies recent fever or chills.  No 
night sweats or recent weight loss or gain. Denies cough, 
shortness of breath.  Denies chest pain or tightness, 
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or abdominal pain.  No recent change in bowel or bladder habits. 
 No dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
HTN 
Hyperlipidemia
GERD
Back pain
Anxiety
Asthma
Benign adrenal adenoma

PSHx:
cholecystectomy
ovarian cyst removal x2

 
Social History:
___
Family History:
One of her sisters passed after a stroke (in her ___ and was 
diagnosed with pulmonary sarcoidosis.  Mom and uncle also had 
strokes in their ___.  Mom and uncle with late-onset diabetes.  
Otherwise, she does not know family history very well because 
her family "does not talk about their problems."  To her 
knowledge, no family member with spine problems similar to hers. 
 No family history of other autoimmune disorders apart from one 
sister with lupus. 

 
Physical Exam:
Vitals: BP 129/68 P 80 R 14 POX 99 RA
General: Awake, obese, cooperative, NAD.  Intermittently she 
pauses conversation and cringes her face complaining of neck 
pain
HEENT: NC/AT
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity. 
 She has limited active rotation of neck bilaterally and will 
not let me assess passive ROM given pain. Difficult to assess 
for neck muscle asymmetry given her habitus.
Pulmonary: CTABL
Cardiac: RRR, no murmurs
Abdomen: obese, soft, nontender, nondistended
Extremities: no edema, pulses palpated
Skin: no rashes or lesions noted.
Spine: no tenderness with palpation of her spinous processes
 
Neurologic:
-Mental Status: Alert, oriented x 3.  Able to relate history 
without difficulty.  Attentive, able to name ___ backward 
without difficulty.  Language is fluent with intact repetition 
and comprehension.  Normal prosody.  There were no paraphasic 
errors.  Pt. was able to name both high and low frequency 
objects.  Able to read without difficulty.  Speech was not 
dysarthric. Able to follow both midline and appendicular 
commands.

-Cranial Nerves: PERRL 3 to 2mm and brisk.  VFF to 
confrontation.  EOMI without nystagmus.  Normal saccades.  
Facial sensation intact to light touch and pinprick.  No facial 
droop, facial musculature symmetric. Hearing intact to 
finger-rub bilaterally. Palate elevates symmetrically. ___ 
strength in trapezii and SCM bilaterally. Tongue protrudes in 
midline.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally.  There is a coarse, intermittent postural tremor.  
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  4+   4+  ___  ___-  5   5-   4   5      5   
R  4+   ___   ___  4+  5   5-   4+  5      5   
Neck extension is ___.  Neck flexion is ___

-Sensory: Light touch is intact throughout.  Pinprick is intact 
in chest until T4 level at which point she feels pressure but 
not prick on her abdomen and upper pelvis.  On back, there is 
severe deficit of pinprick at C4-C7 level.  Below this there is 
a patchy distribution of pinprick deficit that does not follow a 
dermatome. Bilateral legs with deficit to pinprick, with left 
worse than right.  Proprioception intact at wrists (not at 
fingers) and at bilateral great toes.   

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    3   2
R  1  2    0    1   1
Hoffmans is positive on the left, no on the right. 
Toe is upgoing on left, not on right. 

-Coordination: FNF w/ intention tremor, not dysmetria.  Clumsy 
finger tapping.  
-Gait:  She complains of much pain when going from sitting to 
standing.  Is able to stand unassisted (albeit with much 
hesitation).  Narrow stance, hard to asses because very cautious 
about walking unassisted.  
_____________________________
 
DISCHARGE EXAM: 
Ambulation with ___ services has improved, and fine tactile 
action with the hands has also improved; however, her upper 
extremity strength (specifically the extensors) remain impaired. 
 
 
Pertinent Results:
LABS:

___ 07:30AM BLOOD WBC-4.2 RBC-4.43 Hgb-12.6 Hct-39.6 MCV-89 
MCH-28.5 MCHC-31.9 RDW-13.6 Plt ___
___ 07:30AM BLOOD ___ PTT-29.7 ___
___ 07:30AM BLOOD Glucose-120* UreaN-18 Creat-0.6 Na-141 
K-4.5 Cl-106 HCO3-27 AnGap-13
___ 07:30AM BLOOD ALT-29 AST-22 CK(CPK)-50 AlkPhos-81 
TotBili-0.3
___ 07:30AM BLOOD Calcium-9.1 Phos-3.4 Mg-2.0 Cholest-235*
___ 07:30AM BLOOD Triglyc-89 HDL-69 CHOL/HD-3.4 
LDLcalc-148*
___ 07:30AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

IMAGING:

CXR ___:
No previous images.  The heart is normal in size and there is no 

vascular congestion, pleural effusion, or acute focal pneumonia. 
 
Specifically, no hilar or mediastinal adenopathy or interstitial 
changes to radiographically suggest sarcoidosis. 

CT CHEST ___:
Partially calcified mediastinal and hilar lymphadenopathy is 
nonspecific, but can be seen in the setting of sarcoidosis. 
Other etiologies including prior granulomatous infection or 
lymphoma/metastatic disease cannot be excluded. Clinical 
correlation is recommended. 

MRI C&T-SPINE ___:
1. High T2 signal in the spinal cord has progressed compared to 
___, now extending from the 
cervicomedullary junction through T2 level, despite interim 
steroid therapy. Patchy contrast enhancement within the spinal 
cord at the level of C4 has not significantly changed. 
Persistence of contrast enhancement is not typical for 
demyelinating disease. These findings are compatible with 
infectious, neoplastic, or paraneoplastic etiology. Since the 
degree of contrast enhancement has not progressed, aggressive 
neoplasm and aggressive infection are less likely. Also, 
lymphoma is unlikely as the contrast enhancement persists after 
steroid therapy. 
2. Congenital spinal canal stenosis and degenerative disease, 
resulting in 
moderate to severe spinal canal narrowing from C3-4 through C5-6 
with 
flattening of the spinal cord. Multilevel severe neural 
foraminal narrowing in the cervical spine. 
3. Mild degenerative disease in the thoracic spine without mass 
effect on the spinal cord. 

MRI HEAD ___:
1. Small foci of signal abnormality in the supratentorial white 
matter, 
unchanged compared to ___, are nonspecific. Diagnostic 
considerations include sequela of chronic small vessel ischemic 
disease, particularly the patient has cardiovascular risk 
factors, as well as demyelinating disease, Lyme disease, 
sarcoidosis, other postinflammatory etiologies, and vasculitis. 
2. Partially visualized signal abnormality in the cervical 
spinal cord 
starting at the cervicomedullary junction is better assessed on 
the concurrent cervical and thoracic spine MRI. 

CXR ___:
FINDINGS:  
Basilar atelectasis is re-demonstrated. There is no pneumonia, 
pulmonary edema or pneumothorax.  No large pleural effusions. 
Cardiomediastinal silhouette is within normal limits.  There is 
an incidentally noted bridge between the left ___ and 7th ribs. 
No acute osseous abnormalities. 

PATH:
___ FNA: Clusters of epitheliod histiocytes and histiocytic 
giant cells, consistent with non-necrotizing granulomas. 
Reactive bronchial cells and numerous lymphocytes consistent 
with lymph node sampling. Note: Special stains (GMS, PAS&D, and 
AFB) on cell block preparation are negative for organisms with 
satisfactory controls, although scant materials are present on 
the cell block. The findings are consistent with sarcoidosis in 
the appropriate clinical context.

___ Lung, right upper lobe, transbronchial biopsy:
- Fragments of airway tissue and alveolated lung parenchyma with 
patchy chronic inflammation and focal accumulations of fine 
pigment-laden macrophages in the alveolar spaces. 
- GMS, PAS, and ___ (modified AFB) stains are negative for 
infectious microorganisms.
- No granulomas or malignancy identified; multiple levels 
examined.

PATH PENDING for Mediastinal LN Biopsy ___
 
Brief Hospital Course:
___ is a ___ with a history of asthma, HTN, HLD who 
presents with 8 months of weakness and sensory loss of hands and 
___ (flexors > extensors) with associated cervical cord lesion of 
unclear etiology. 

# WEAKNESS / SENSORY CHANGES:
Gradually progressive weakness and numbness in the setting of a 
spinal cord lesion and calcified hilar lymph nodes and family 
history of sarcoidosis, concerning for neurosarcoid, malignancy, 
or infectious process.

She was previously extensively evaluated by her outpatient 
neurologist, Dr. ___ with no definitive results 
narrowing .  During this admission as deliniated below, she 
underwent multiple studies including MRI Brain (which was 
unrevealing) and MRI of her C-spine which did reveal "High T2 
signal in the spinal cord has progressed compared to ___, and ___, now extending from the cervicomedullary 
junction through T2 level, despite interim steroid therapy".  
She had a lumbar punction done by ___, which was benign, with 
negative cytology and Immunophenotyping of CSF.  CTA for eval of 
possible Cervical Spinal-dural AVF was unrevealing.  Given her 
previous spinal angiogram, suspicion for SDAVF was especially 
low. CT Chest this admission did reveal mild hilar 
lymphadenopathy, a dynamic change from her outpatient 
evaluation.  She underwent Hilar LN was biopsied on ___ given 
her strong family history of sarcoidosis.  Pathology on this was 
notable from 1 lymph node with a non caseating granuloma, while 
the other lymph node bx and tissue did not demonstrate this.  
Pathology felt that this was unlikely sarcoid (but could not be 
ruled out).  Rheumatology was consulted and felt that between 
the biopsy result, her symptoms progression on cellcept and 
prednisone and development of this non-caseating granuloma on 
these agents, neurosarcoid was highly unlikely.  Infectious 
disease was consulted to eval for possible infectious etiology 
of the non-caseating granuloma for which the patient underwent 
three negative sputum tests (unable to produce any phlegm from 
induced sputum which was regarded as negative).  

Neurosurgery was consulted for evaluation for possible cervical 
decompression or given the negative evaluation thus far, 
possible cord biopsy (although decompression will likely be the 
exclusive procedure due to the risks associated with biopsy).

Pulmonary and Thoracic Surgery were consulted finally for the 
patient's fitness for mediastinal lymph node biopsy to more 
aggressively pursue a diagnosis of sarcoid, which she underwent 
on ___.  The pathology for this was pending at the time of 
discharge.

For her neuropathic pain, her Gabapentin was increased to 600mg, 
600mg, 900mg TID.  Her home prednisone and cellcept were 
continued.  She was evaluated by ___ and discharged to rehab.

TRANSITIONS OF CARE: 
- STUDIES PENDING on discharge = mediastinal LN biopsy 
(___). Should the LN biopsy prove consistent with sarcoid, 
it is likely that she will undergo more aggressive treatment 
such as Remicade.
- Decompression will also be pursued by Dr. ___ she 
believe on reevaluation that it may provide benefit with regard 
to the patient's neuropathy.
- The patient is continuing on CellCept and steroids as prior to 
admission.
- Attempted to contact her outpt neurologist but could not get 
through. Will fax summary to office. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 20 mg PO DAILY 
2. Hydrocodone-Acetaminophen (5mg-325mg) 1 TAB PO Q4H:PRN neck 
pain 
3. Caltrate 600 (calcium carbonate) 600 mg (1,500 mg) oral daily 

4. Enalapril Maleate 20 mg PO DAILY 
5. Gabapentin 300 mg PO TID 
6. Montelukast 10 mg PO DAILY 
7. Mycophenolate Mofetil 1000 mg PO BID 
8. Omeprazole 20 mg PO DAILY 
9. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
q4H prn sob 
10. Tiotropium Bromide 1 CAP IH DAILY 
11. Sulfameth/Trimethoprim DS 1 TAB PO ___ 
12. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation 2 puffs daily 

 
Discharge Medications:
1. Hydrocodone-Acetaminophen (5mg-325mg) 1 TAB PO Q4H:PRN neck 
pain 
2. Gabapentin 600 mg PO TID 
Take 600mg in the morning, 600mg in the afternoon, 900mg in the 
evening 
RX *gabapentin 600 mg 1 tablet(s) by mouth three times a day 
Disp #*90 Tablet Refills:*1
3. Enalapril Maleate 20 mg PO DAILY 
4. Montelukast 10 mg PO DAILY 
5. Mycophenolate Mofetil 1000 mg PO BID 
6. Omeprazole 20 mg PO DAILY 
7. Sulfameth/Trimethoprim DS 1 TAB PO ___ 
8. Tiotropium Bromide 1 CAP IH DAILY 
9. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation 2 puffs daily 
10. PredniSONE 20 mg PO DAILY 
11. Caltrate 600 (calcium carbonate) 600 mg (1,500 mg) oral 
daily 
12. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
q4H prn sob 
13. Vitamin D 800 UNIT PO DAILY 
14. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
15. Docusate Sodium 100 mg PO BID constipation 
16. Polyethylene Glycol 17 g PO DAILY:PRN constipation 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Upper extremity weakness and sensory change

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure meeting you during your recent hospitalization 
at ___. You presented to the 
hospital with worsening upper extremity weakness that has been 
progressing over the past 8 months. You have an abnormality in 
your spinal cord on MRI that explains your symptoms. During this 
hospitalization, you underwent extensive workup to figure out 
why you have that spinal cord abnormality which unfortunately 
was not conclusive for any unifying diagnosis.  

During this hospitalization, you underwent two lymph node 
biopsies as part of your evaluation for sarcoidosis, the first 
being a needle aspirate, and the second, a more complete 
resection of a whole lymph node. The results of this second 
biopsy are still pending at the time of your discharge.  

As discussed with you during this admission, we recommend 
evaluation by Dr. ___ of our neurosurgery for 
possible cervical spine decompression. We may also arrange for 
further treatment with stronger immunosuppresant medications 
should your biopsy return positive for any autoimmune illness.

Sincerely,

Your ___ Neurology team
 
Followup Instructions:
___